US04436753
6-(18-Hydroxyoctadecyl)-2,3-dimethoxy-5-methylphenol (0.5 g), prepared by deacetylating the above 18-acetoxy compound in the same manner as in Reference Example 3, is dissolved in dimethylformamide (1 l) followed by addition of potassium nitrosodisulfonate (13 g), water (700 ml), methanol (100 ml) and potassium-dihydrogen phosfate (1 g). The mixture is stirred at room temperature for 45 days. The product is extracted in a conventional manner and recrystallized from hexane to give yellow needles of 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone (I, n=18, 0.31 g). m.p. 81° C.

reactant | 6-(18-Hydroxyoctadecyl)-2,3-dimethoxy-5-methylphenol | 0.5 g | OCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C27H48O4
reactant | potassium nitrosodisulfonate | 13 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | water | 700 ml | O | H2O
reactant | methanol | 100 ml | CO | CH4O
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 6-(18-hydroxyoctadecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 0.31 g | OCCCCCCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C27H46O5
